US04117039
80 g Phosphoryl chloride were added dropwise to 80 ml cooled dimethyl formamide. 48 g acetophenone were added over 45 minutes and the mixture stirred at 0° C. for a further 60 minutes. After standing at room temperature overnight the mixture was poured into a solution of 600 g sodium acetate in 1500 ml water. β-Chlorocinnamaldehyde separated as a red oil. The mixture was ether extracted and the ethereal solution dried over anhydrous sodium sulphate. Evaporation of the ether yielded 44 g of β-chlorocinnamaldehyde. β-Chlorocinnamaldehyde and malonic acid were condensed to give δ-chlorocinnamylidene malonic acid and this was converted to the corresponding chlorosulphonyl derivative using the method described in Example 1(a).

reactant | Phosphoryl chloride | 80 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | acetophenone | 48 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium acetate | 600 g | C(C)(=O)[O-].[Na+]
solvent | water | 1500 ml | O | H2O
product | β-chlorocinnamaldehyde | 44 g | ClC(=CC=O)C1=CC=CC=C1 | C9H7ClO
